US06649234B1
Aluminum octaoxide was synthesized by the method disclosed by U.S. Pat. Nos. 4,242,271 and 4,202,870, and then hydrolyzed to prepare an alumina slurry. Water was added to the alumina slurry until it had 5% by weight of solid contents of an alumina hydrate. The alumina slurry was heated to 80° C. and reacted for 10 hours for aging, and a colloidal sol thus obtained was dried with a sprayer, thereby preparing Alumina Hydrate No. 1. The Alumina Hydrate No. 1 was mixed with water for dispersion therein, adjusted to pH 4 with hydrochloric acid and then stirred for some time. Subsequently, small components were eliminated by the ultrafiltration method (using ACV-3050 Module, trade name, manufactured by Asahi Chemical Corp.), thereby obtaining a colloidal sol. The colloidal sol was desalted and deflocculated by adding acetic acid. Alumina Hydrate No. 2 was prepared by drying the colloidal sol after the deflocculation, and X-ray diffractometry of the Alumina Hydrate No. 2 indicated the pseudo-boehmite structure. Furthermore, a measurement of a pore radius distribution by the nitrogen adsorption·desorption method indicated that a volume of pores having radii not exceeding 50 Å was not more than 6.0% of a volume of all pores as shown in Table 1.

reactant | Water | O | H2O
reactant | alumina hydrate | O.O.O.O.[Al]
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Aluminum octaoxide | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Al+3] | InChI=1S/Al.8O/q+3;8*-2
